US07432258B2
(1R)-1-(4-bromophenyl)-N-methyl-2-(1-pyrrolidinyl)ethanamine (2.65 g, 9.4 mmol) was dissolved in dioxane (100 mL) under argon at room temperature. The resulting solution was magnetically stirred and treated with [3-(aminocarbonyl)phenyl]boronic acid (1.7 g, 10.3 mmol) followed by 15 mL of a 1.88M solution of Na2CO3 (28.2 mmol) and PdCl2(dppf)2·CH2Cl2 (408 mg, 0.5 mmol) all at room temperature. The flask was placed in a preheated 100° C. oil bath and maintained at 100° C. for approximately 18 h after which time it was determined by LCMS to be 60% complete. Additional PdCl2(dppf)2·CH2Cl2, (408 mg, 0.5 mmol) was added and the reaction was allowed to continue at 105° C. for approximately another 6 h. The reaction was determined to be complete by LCMS (Eclipse XDB C18, 4.6×250 mm column, 1.5 mL/min, 10 minutes, gradient from 1-99% CH3CN (0.1% trifluoroacetic acid)/H2O (0.1% trifluoroacetic acid), ES, Rt=4.46 min and m/e 324 [M+1]+). The reaction mixture was cooled to room temperature and filtered through Celite. The filtrate was concentrated under vacuum by rotary evaporation and purified by silica gel chromatography (120 g Redisep silica gel column, 40 um, 60 Å, 50 mL/min, A: (CH2Cl2) B: (Methanol with 1% NH4OH) gradient of 0% -20% B in A, 60 min run; detection at 254 nm) to give 4′-[(1R)-1-(methylamino)-2-(1-pyrrolidinyl)ethyl]-3-biphenylcarboxamide (2.0 g) as a brown oil:

reactant | (1R)-1-(4-bromophenyl)-N-methyl-2-(1-pyrrolidinyl)ethanamine | 9.4 mmol, 2.65 g | BrC1=CC=C(C=C1)[C@H](CN1CCCC1)NC | C13H19BrN2
reactant | [3-(aminocarbonyl)phenyl]boronic acid | 10.3 mmol, 1.7 g | NC(=O)C=1C=C(C=CC1)B(O)O | C7H8BNO3
reactant | Na2CO3 | 28.2 mmol | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH3CN | CC#N | C2H3N
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf)2·CH2Cl2 | 0.5 mmol, 408 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | PdCl2(dppf)2·CH2Cl2 | 0.5 mmol, 408 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | H2O | O | H2O
product | 4′-[(1R)-1-(methylamino)-2-(1-pyrrolidinyl)ethyl]-3-biphenylcarboxamide | 2.0 g | CN[C@@H](CN1CCCC1)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)N | C20H25N3O
